US04675186
(3-Hydroxyphenyl)glyoxal
Using 1:1 hexane:ethyl acetate as eluant, the method of Preparation 68 was employed to convert 3-hydroxyacetophenone (15.0 g., 0.11 mol) to present title product, 7.4 g.; 1H-nmr (DMSO-d6) 7.09 (m, 2H), 7.43 (m, 3H), 9.75 (br m, 1H).

reactant | hexane | CCCCCC | C6H14
reactant | 3-hydroxyacetophenone | 0.11 mol, 15.0 g | CC(=O)C=1C=CC=C(C1)O | C8H8O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3-Hydroxyphenyl)glyoxal | OC=1C=C(C=CC1)C(=O)C=O | C8H6O3
